US08420654B2
Reference: Riley, T. A.; Hennen, W. J.; Dalley, N. K.; Wilson, B. E.; J. Heterocyclic Chem., 1987, 24, 955-964. Heat a mixture of cyclopropylcarbamidine hydrochloride (2.05 g, 17 mmol), (E)-4-ethoxy-2-oxo-but-3-enoic acid ethyl ester (4.39 g, 25.5 mmol), ethanol (12 mL), and sodium ethoxide (1.16 g, 17 mmol) in a microwave at 140° C. for 20 min. Concentrate the reaction mixture under reduced pressure and partition the residue between ethyl acetate and brine. Separate the organic layer and concentrate under reduced pressure. Purify the residue by silica gel chromatography (10-30% ethyl acetate/hexane) to give 2-cyclopropyl-pyrimidine-4-carboxylic acid ethyl ester (1.5 g, 46%) as light yellow oil. MS (m/z): 193.0 (M+H)+.

reactant | cyclopropylcarbamidine hydrochloride | 17 mmol, 2.05 g | C1CC1C(=N)N.Cl
reactant | (E)-4-ethoxy-2-oxo-but-3-enoic acid ethyl ester | 25.5 mmol, 4.39 g | C(C)OC(C(\C=C\OCC)=O)=O | C8H12O4
reactant | sodium ethoxide | 17 mmol, 1.16 g | [O-]CC.[Na+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 2-cyclopropyl-pyrimidine-4-carboxylic acid ethyl ester | 1.5 g, 46% | C(C)OC(=O)C1=NC(=NC=C1)C1CC1 | C10H12N2O2
